US05143914
To stirred solution of m-bromoaniline (34.4 g; 0.2M) in thiophene (200 mL) was added isoamylnitrite (46.86 g; 0.4M) dropwise over a period of 30 mins. at 0° C. The resulting mixture was cautiously warmed to R.T. and heated to reflux for 16 hours. The reaction mixture was cooled, diluted with 400 mL of ether, washed with 3×100 mL of satd. sodium chloride solution, and dried over anhydrous magnesium sulfate. Solvent and excess thiophene were removed. A solution of the residue in 200 mL of ether was filtered through 50 G silica gel bed. Solvent was removed, and the residue was distilled to give 34% of 2-(3'-bromophenyl)thiophene as a yellow liquid boiling at 130°-2°/~0.2 mm. This liquid solidified on standing in the refrigerator.

reactant | m-bromoaniline | 0.2M, 34.4 g | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | isoamylnitrite | 0.4M, 46.86 g | C(CC(C)C)ON=O | C5H11NO2
reactant | thiophene | 200 mL | S1C=CC=C1 | C4H4S
solvent | ether | 400 mL | CCOCC | C4H10O
product | 2-(3'-bromophenyl)thiophene | 34% | BrC=1C=C(C=CC1)C=1SC=CC1 | C10H7BrS
